US09227970B2
b) 2-(3-Methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine
Using 6-Bromo-2-(3-methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridine, this compound was prepared following the same method as for the synthesis of 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine. Brown solid (1.4 g, 71%). MS: m/z=234 (M+H+).

reactant | 6-Bromo-2-(3-methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridine | BrC=1C=CC=2N(C1)N=C(N2)N2CC(CC2)OC | C11H13BrN4O
reactant | 2-morpholin-4-yl-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine | N1(CCOCC1)C1=NN2C(C=CC(=C2)N)=N1 | C10H13N5O
product | 2-(3-Methoxy-pyrrolidin-1-yl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylamine | COC1CN(CC1)C1=NN2C(C=CC(=C2)N)=N1 | C11H15N5O
